US06087357
A mixture of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-ylmethyl)-4-(3-methylsulfonyloxypropyl)piperazine (0.2 g), thiomorpholine (0.042 g) and triethylamine (0.09 ml) in dry acetonitrile (2 ml) was stirred at 90° C. for 15 hours. The reaction mixture was concentrated under reduced pressure and the resulting residue was partitioned between ethyl acetate and water. The organic layer was washed with brine and dried over magnesium sulfate. After evaporation of the solvent, the residue was purified by column chromatography on silica gel using ethyl acetate-methanol (10:1) as an eluent to give (2R)-1-(3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-ylmethyl)-4-(3-thiomorpholinopropyl)piperazine. The product obtained was dissolved in ethanol and treated with 17.6% hydrogen chloride in ethanol solution to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-ylmethyl)-4-(3-thiomorpholinopropyl)piperazine dihydrochloride (0.19 g) as a powder.

reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-ylmethyl)-4-(3-methylsulfonyloxypropyl)piperazine | 0.2 g | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CCCOS(=O)(=O)C)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | C26H27F6N3O4S
reactant | thiomorpholine | 0.042 g | N1CCSCC1 | C4H9NS
reactant | triethylamine | 0.09 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | (2R)-1-(3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-ylmethyl)-4-(3-thiomorpholinopropyl)piperazine | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CCCN2CCSCC2)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | C29H32F6N4OS
